US04775409
4-Carboxy-1-(3,4-dimethylphenyl)-5-pyrazolecarboxamide
A 2.5 g. portion of ethyl 5-cyano-1-(3,4-dimethylphenyl)-4-pyrazolecarboxylate was hydrolysed in 50 ml. of ethanol and 12 ml. of water with 1.3 g. of potassium hydroxide under reflux for 21/4 hours. The mixture was then cooled and poured into 300 ml. of water. The aqueous mixture was filtered, made acid with concentrated hydrochloric acid, and filtered. The solids were dried and recrystallized from ethanol/water to obtain 1.62 g. of the desired product, m.p. 231°-232.5°. Its elemental analysis was as follows:

reactant | ethyl 5-cyano-1-(3,4-dimethylphenyl)-4-pyrazolecarboxylate | C(#N)C1=C(C=NN1C1=CC(=C(C=C1)C)C)C(=O)OCC | C15H15N3O2
reactant | ethanol | C(C)O | C2H6O
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | O | H2O
product | 4-Carboxy-1-(3,4-dimethylphenyl)-5-pyrazolecarboxamide | C(=O)(O)C=1C=NN(C1C(=O)N)C1=CC(=C(C=C1)C)C | C13H13N3O3
